US06162824
In an oven dried flask flushed with N2 was combined 2.7 g (20.0 mmol) of 3-methylbenzeneboronic acid, 3.64 g (15 mmol) of 2-iodobenzoic acid, 150 mL of DME, 26 mL of 10% Na2CO3 and 600 mg (0.5 mmol) of Pd(PPh3)4. The mixture was warmed to reflux for 24 h and partitioned between 100 mL of NaHCO3 and 100 mL of ether. The ether layer was extracted with 2×50 mL of NaHCO3 and the combined NaHCO3 fractions were washed with 2×50 mL of ether, acidified with 10% HCl and extracted with 3×75 mL of ether. The combined ether extracts were washed with 50 mL of H2O, 50 mL of brine, dried (MgSO4) and concentrated in vacuo. The oil was crystallized from ether/hexanes (1/1) at -20° C. as a white precipitate, which after filtration, provided 1.32 g (41% yield) of 3'-methyl-2-biphenylcarboxylic acid as a brown oil.

reactant | 3-methylbenzeneboronic acid | 20.0 mmol, 2.7 g | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | 2-iodobenzoic acid | 15 mmol, 3.64 g | IC1=C(C(=O)O)C=CC=C1 | C7H5IO2
reactant | Na2CO3 | 26 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.5 mmol, 600 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 150 mL | COCCOC | C4H10O2
product | 3'-methyl-2-biphenylcarboxylic acid | 1.32 g, 41% yield | CC=1C=C(C=CC1)C=1C(=CC=CC1)C(=O)O | C14H12O2
